* Actual SKY130 transistor frontend; ideal R/C passives, schematic only.
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt
.include /repo/v2/analog/frontend/results/advanced/startup_tt_1.8_27_g4_r1/frontend_pdk_snapshot.spice
.temp 27
VDD VDD 0 PWL(0 0 1e-06 1.8 0.0001 1.8)
BVCM VCM 0 v=v(vdd)/2
BIP SP 0 v=v(vdd)/2
BIN SN 0 v=v(vdd)/2

RSP SP IP 350
RSN SN IN 350
XPGA IP IN OP ON VDD 0 VCM sky130_v2_pga RF=10000 RG=2150.0
CLP OP 0 81.285p
CLN ON 0 81.285p
.control
set noaskquit
set wr_singlescale
set wr_vecnames

tran 20n 0.0001 uic
let cm=(v(op)+v(on))/2
wrdata startup.dat v(vdd) cm v(xpga.xamp.bn) v(xpga.xamp.bp) v(xpga.xamp.start) i(vdd)
quit
.endc
.end
